US08669361B2
Reaction of 5-chloro-1-methyl-4-nitro-1H-pyrazole and dimethylamine gave N,N,1-trimethyl-4-nitro-1H-pyrazol-5-amine as a yellow solid (210 g, 100%). 1H NMR (400 MHz, CDCl3) δ 8.01 (s, 1H), 3.75 (s, 3H), 2.90 (s, 6H)

reactant | 5-chloro-1-methyl-4-nitro-1H-pyrazole | ClC1=C(C=NN1C)[N+](=O)[O-] | C4H4ClN3O2
reactant | dimethylamine | CNC | C2H7N
product | N,N,1-trimethyl-4-nitro-1H-pyrazol-5-amine | 210 g, 100% | CN(C1=C(C=NN1C)[N+](=O)[O-])C | C6H10N4O2
